US07626023B2
(2S)-N-[(1S,2E)-4-(1H-imidazol-2-yl)-1-isopropyl-3-methyl-4-oxobut-2-enyl]-N,3,3-trimethyl-2-{[(2S)-3-methyl-2-(methylamino)-3-phenyl butanoyl]amino}butanamide
[1-(1-{[4-(-Ethoxymethyl-1H-imidazol-2-yl)-1-isopropyl-3-methyl-4-oxo-but-2-enyl]-methyl-carbamoyl}-2,2-dimethyl-propylcarbamoyl)-2-methyl-2-phenyl-propyl]-methyl-carbamic acid tert-butyl ester (45 mg, 0.066 mmole) is treated with 2 ml trifluoroacetic acid in 2 ml dichloromethane at room temperature for 2 hours. The solvent is evaporated and pumped in oven overnight to give 8 mg white solid product, (2S)-N-[(1S,2E)-4-(1H-imidazol-2-yl)-1-isopropyl-3-methyl-4-oxobut-2-enyl]-N,3,3-trimethyl-2-{[(2S)-3-methyl-2-(methylamino)-3-phenylbutanoyl]amino}butanamide: 8 mg (16%). MS (ES+): (M+H)=524.4

reactant | [1-(1-{[4-(-Ethoxymethyl-1H-imidazol-2-yl)-1-isopropyl-3-methyl-4-oxo-but-2-enyl]-methyl-carbamoyl}-2,2-dimethyl-propylcarbamoyl)-2-methyl-2-phenyl-propyl]-methyl-carbamic acid tert-butyl ester | 0.066 mmole, 45 mg | C(C)(C)(C)OC(N(C)C(C(C)(C1=CC=CC=C1)C)C(NC(C(C)(C)C)C(N(C)C(C=C(C(=O)C=1N(C=CN1)COCC)C)C(C)C)=O)=O)=O | C38H59N5O6
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (2S)-N-[(1S,2E)-4-(1H-imidazol-2-yl)-1-isopropyl-3-methyl-4-oxobut-2-enyl]-N,3,3-trimethyl-2-{[(2S)-3-methyl-2-(methylamino)-3-phenyl butanoyl]amino}butanamide | 8 mg | N1C(=NC=C1)C(/C(=C/[C@H](C(C)C)N(C([C@H](C(C)(C)C)NC([C@H](C(C)(C1=CC=CC=C1)C)NC)=O)=O)C)/C)=O | C30H45N5O3
